US06329370B1
[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-dimethyl-amine (Compound 44)
At room temperature a solution of [4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-propyl-amine (3.5 g, 5.64 mmoles), prepared as described in example 78, in DMF (35 ml) was stirred under N2, then added with K2CO3 (0.78 g, 5.64 mmoles) and methyl iodide (0.35 ml, 5.64 mmoles). The mixture was heated at 50° C. and after 20 hours was dried and partitioned between water and CH2Cl2. The organic phase was washed with water, anhydrified and concentrated to give an oil which was flash chromatographed (eluent: hexane/ethyl acetate 4:6) to give 1 g of the title compound (yield: 50%). m.p.: 170-173° C.

reactant | [4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-propyl-amine | 5.64 mmoles, 3.5 g | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)NCCC)Cl | C18H18Cl2N4O
reactant | K2CO3 | 5.64 mmoles, 0.78 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 5.64 mmoles, 0.35 ml | CI | CH3I
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | [4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-phthalazin-1-yl]-dimethyl-amine | 1 g, yield: 50% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)N(C)C)Cl | C17H16Cl2N4O
